US07253286B2
N6-Cyclopropyl-4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxamide
After dissolving 4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxylic acid (86 mg, 0.20 mmol) in dimethylformamide (2 ml), there were added 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (77 mg, 0.40 mmol), 1-hydroxy-1H-benzotriazole monohydrate (61 mg, 0.40 mmol), triethylamine (0.112 ml, 0.80 mmol) and cyclopropylamine (0.055 ml) while stirring on ice, and the mixture was stirred overnight at room temperature. The reaction solution was distributed between ethyl acetate and water, and the organic layer was washed with water and saturated brine and then dried over anhydrous sodium sulfate. After distilling off the solvent, the residue was suspended in ethyl acetate and diluted with hexane, and the crystals were filtered out and blow-dried to obtain the title compound (40.0 mg, 0.086 mmol, 42.6%) as white crystals.

reactant | 4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxylic acid | 0.20 mmol, 86 mg | ClC=1C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)O)OC)C=CC1NC(=O)NC1CC1 | C21H18ClN3O5
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 0.40 mmol, 77 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole monohydrate | 0.40 mmol, 61 mg | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 0.80 mmol, 0.112 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopropylamine | 0.055 ml | C1(CC1)N | C3H7N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N6-Cyclopropyl-4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxamide | 0.086 mmol, 40.0 mg, 42.6% | C1(CC1)NC(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NC1CC1)Cl | C24H23ClN4O4
